data/mechanisms/records/IMS9-EQ9.18b.json
{"mechanism_id": "IMS9-EQ9.18b", "species": [{"species_id": "molecular_ion_130", "mapped_smiles": "[CH3:4][CH2:3][CH:2]([1H:10])[CH2:1][C:5]([CH3:6])([CH2:7][CH3:8])[OH+:9]", "role": "precursor_ion", "charge": 1, "radical_electrons": 1, "spin_multiplicity": 2, "detected": true}, {"species_id": "oxonium_101", "mapped_smiles": "[CH3:4][CH2:3][CH:2]([1H:10])[CH2:1][C:5]([CH3:6])=[OH+:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "ethyl_radical", "mapped_smiles": "[CH2:7][CH3:8]", "role": "neutral_radical", "charge": 0, "radical_electrons": 1, "spin_multiplicity": 2, "detected": false}, {"species_id": "oxonium_45", "mapped_smiles": "[CH3:6][C:5]([1H:10])=[OH+:9]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": true}, {"species_id": "butene_loss", "mapped_smiles": "[CH2:1]=[CH:2][CH2:3][CH3:4]", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["molecular_ion_130"]}, {"state_id": "state_after_alpha", "species_ids": ["oxonium_101", "ethyl_radical"]}, {"state_id": "state_products", "species_ids": ["oxonium_45", "butene_loss", "ethyl_radical"]}], "steps": [{"step_id": "step_alpha_ethyl_loss", "from_state": "state_precursor", "to_state": "state_after_alpha", "step_class": "alpha_cleavage", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "atom", "atom_maps": [9]}, "target": {"type": "bond", "atom_maps": [5, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 7]}, "target": {"type": "bond", "atom_maps": [5, 9]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 7]}, "target": {"type": "atom", "atom_maps": [7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}, {"step_id": "step_rh_butene_loss", "from_state": "state_after_alpha", "to_state": "state_products", "step_class": "hydrogen_rearrangement", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [2, 10]}, "target": {"type": "bond", "atom_maps": [5, 10]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [2, 10]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 1]}, "target": {"type": "bond", "atom_maps": [1, 2]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [5, 1]}, "target": {"type": "bond", "atom_maps": [5, 10]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "evidence_step_alpha", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_alpha_ethyl_loss", "support_type": "textbook_proposed", "locator": {"page": 241, "equation": "9.18", "figure": null, "panel": null, "section": "9.2 Alcohols"}, "confidence": 0.85, "curator_note": "Radical-site (alpha) cleavage of the 3-methyl-3-heptanol molecular ion. Eq 9.18 draws the molecular ion ONCE, C4H9-C(CH3)(C2H5)-OH with '+.' printed over the hydroxyl oxygen, and hangs three labelled branch arrows off it ('- C4H9 / alpha' upper right, '- C2H5. / alpha' straight right, '- CH3. / alpha' lower right); this record encodes the '- C2H5. / alpha' branch. Book draws 1 arc; move <1> is drawn (the single fishhook printed from the '+.' on oxygen, map 9, curving down-left with its barb on the C5-O9 bond = the odd electron into the forming C5=O9 pi bond); moves <2,3> are implicit homolysis hooks required for electron balance (not drawn on the page - the expelled radical is only written as the '- C2H5.' label over the branch arrow). LOCALIZATION (convention B): the charge and the odd electron are printed on the intact hydroxyl oxygen, so the precursor SMILES uses [OH+:9] (O+ with two connections carries the one unpaired electron) rather than a neutral alcohol with the charge only in the JSON fields. NO PRINTED INTENSITY (convention F): Figure 9.5 at the top of the same page labels bars '130 M+.', '115 alpha', '101 alpha', '73 alpha', '83', '55', '43', '27', '15' but prints no numeric percentages, and eq 9.18 prints none, so relative_intensity is omitted everywhere in this record; the m/z values themselves ARE printed under every drawn ion, which is why the product ions are flagged detected=true."}, {"evidence_id": "evidence_step_rh", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_rh_butene_loss", "support_type": "textbook_proposed", "locator": {"page": 241, "equation": "9.18", "figure": null, "panel": null, "section": "9.2 Alcohols"}, "confidence": 0.8, "curator_note": "Alkene loss with hydrogen rearrangement ('rH' under the reaction arrow) from the m/z 101 even-electron oxonium ion, drawn through the four-centre arrangement the book prints as an open rectangle: the transferring hydrogen (map 10) at the upper left, the two alkyl carbons (maps 2 and 1) at the two lower corners, the carbinol carbon (map 5) at the upper right, and the top edge - the forming C5-H10 bond - left OPEN. Book draws 4 arc(s). Three are unambiguous and are encoded verbatim: move <1> = the fishhook whose tail sits on the C2-H10 bond and whose barb points up-right into the open C5...H10 gap; move <2> = the second fishhook leaving that same C2-H10 bond and pointing down onto the C1-C2 bond (the forming pi bond); move <3> = the fishhook leaving the C5-C1 bond and pointing down onto that same C1-C2 bond (arcs <2> and <3> are the 'W' printed inside the rectangle). The fourth printed arc is the large one that sweeps over the top of the carbinol carbon and ends with its barb in the same C5...H10 gap as arc <1>, i.e. the two barbs bracket the forming C-H bond and deliver its two electrons. AS PRINTED the tail of that fourth arc sits on the C5=O9 bond rather than on the C5-C1 bond - but the C5=O9 pi bond is retained intact in the drawn product (CH3CH=OH+, m/z 45), so a tail on it cannot be balanced (oxygen would end up with two bonds and a +1 charge). The only electron-balanced reading, and the one encoded here as move <4>, is the second electron of the breaking C5-C1 sigma bond routed around the carbon because the direct path is blocked by the 'C' atom label. That is a curator reading of a loosely drawn arc, NOT a verbatim transcription of its printed tail. Formally this is a retro-ene / four-centre elimination; step_class 'hydrogen_rearrangement' follows the book's own 'rH' label and the convention used by the chapter-8 records. In this branch the four-centre rectangle is drawn on the n-butyl chain: the lower-left corner (map 2) is the carbon that carries both the transferring hydrogen and the residual C2H5 written to its left, so the neutral lost is C4H8 (1-butene, maps 1-4)."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": "[M]+•", "activation_method": "70 eV EI", "collision_energy": null, "electron_energy_ev": 70.0, "precursor_mz": 130.1352, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_101", "species_id": "oxonium_101", "step_id": "step_alpha_ethyl_loss", "observed_mz": 101.0961, "hydrogen_shift": 0, "isotope_offset": 0, "status": "proposed", "confidence": 0.9}, {"peak_id": "peak_45", "species_id": "oxonium_45", "step_id": "step_rh_butene_loss", "observed_mz": 45.0335, "hydrogen_shift": 1, "isotope_offset": 0, "status": "proposed", "confidence": 0.8}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-30T00:00:00Z", "modified_at": "2026-07-30T00:00:00Z"}}
